US05550132
2-Bromoethyl Hexadecanoate
This intermediate was prepared in a manner analogous to that of 2-bromoethyl octanoate from 2-bromoethanol (4 g, 32 mmol), hexadecanoyl chloride (13.2 g, 48 mmol), and pyridine (5 mL) in benzene (50 mL). Silica gel chromatography using chloroform/methanol (9: 1) yielded 9.75 g pure product. Yield 84%; liquid; 1H NMR (CDCl3) 0.85-0.95 (t, CH3 (CH2)12), 1.20-1.40 (m, CH3 (CH2)12), 1.55-1.70 (m, CH2 CO), 2.25-2.40 (t, CH2 CH2 CO), 3.50-3.60 (t, O CH2 CH2 Br), 4.35-4.40 (t, O CH2 CH2 Br).

reactant | 2-bromoethyl octanoate | C(CCCCCCC)(=O)OCCBr | C10H19BrO2
reactant | 2-bromoethanol | 32 mmol, 4 g | BrCCO | C2H5BrO
reactant | hexadecanoyl chloride | 48 mmol, 13.2 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-Bromoethyl Hexadecanoate | 9.75 g, Yield 84% | C(CCCCCCCCCCCCCCC)(=O)OCCBr | C18H35BrO2
